US06482841B1
B) 4-(2,3-Dichlorophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
To a suspension of 82 g (0.068 mol) of pyridinium chlorochromate on alumina in 230 ml of CH2Cl2, 10 g (0.023 mol) of 4-(2,3-dichlorophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester were added, and the mixture was maintained with strong stirring during 7 hours. The insoluble solid was filtered and the remaining liquid was washed with water (3×250 ml), dried with anh. Na2SO4 and concentrated at low pressure. Finally, the product was obtained as an oil, with a yield of 87%.

reactant | pyridinium chlorochromate | 0.068 mol, 82 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4-(2,3-dichlorophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.023 mol, 10 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C21H23Cl2NO5
solvent | CH2Cl2 | 230 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,3-Dichlorophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 87% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C21H21Cl2NO5
